US07429666B2
Step 1. N-[4-(Difluoromethoxy)benzyl]-4-isopropylaniline
Following the procedure described in Example 1A, step 1, 4-(difluoromethoxy)benzaldehyde and 4-isopropylaniline gave the title compound as a pale yellow oil.

reactant | 4-(difluoromethoxy)benzaldehyde | FC(OC1=CC=C(C=O)C=C1)F | C8H6F2O2
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | N-[4-(Difluoromethoxy)benzyl]-4-isopropylaniline | FC(OC1=CC=C(CNC2=CC=C(C=C2)C(C)C)C=C1)F | C17H19F2NO
